US08030305B2
3-(4-Fluoro-benzyl)-6-thiophen-2-yl-[1,2,4]triazolo[4,3-b]pyridazine
The title compound was prepared as described in Example 17 from 4-fluorophenylacetic acid hydrazide (1.04 mmol) and 3-chloro-6-thiophen-2-yl-pyridazine (0.52 mmol) as a pale beige solid. 1H NMR (CD3OD) δ 8.19 (1H, d, J=9.9 Hz), 7.93 (1H, dd, J=3.8 Hz, 0.9 Hz), 7.90 (1H, d, J =9.9 Hz), 7.75 (1H, dd, J=5.0 Hz, 1.0 Hz), 7.50 (2H, dd, J=9.0 Hz, 5.3 Hz), 7.24 (1H, dd, J=5.3 Hz, 3.8 Hz), 7.06 (2H, t, J=8.8 Hz), 4.59 (2H, s). ESI-MS (m/z): Calcd for C16H11FN4S: 310.1; found 311.2 (M+H).

reactant | 4-fluorophenylacetic acid hydrazide | 1.04 mmol | FC1=CC=C(C=C1)CC(=O)NN | C8H9FN2O
reactant | 3-chloro-6-thiophen-2-yl-pyridazine | 0.52 mmol | ClC=1N=NC(=CC1)C=1SC=CC1 | C8H5ClN2S
product | 3-(4-Fluoro-benzyl)-6-thiophen-2-yl-[1,2,4]triazolo[4,3-b]pyridazine | FC1=CC=C(CC2=NN=C3N2N=C(C=C3)C=3SC=CC3)C=C1 | C16H11FN4S
